US06414148B1
3-Bromo-1-propanol (584 mg, 4.2mmol) was added to a mixture of (S)-pyrrolidine-2-carboxamide (399 mg, 3.5 mmol) and potassium carbonate (966 mg, 7 mmol) in acetonitrile (10 ml). The mixture was heated at reflux for 5 hours and the mixture was stirred for 18 hours at ambient temperature. The insolubles were removed by filtration and the solvent was removed from the filtrate by evaporation The residue was purified by column chromatography on silica eluting with methylene chloride/methanol (9/1 followed by 8/2) to give (S)-1-(3-hydroxypropyl)-pyrrolidine-2-carboxamide (365 mg, 60%).

reactant | 3-Bromo-1-propanol | 4.2mmol, 584 mg | BrCCCO | C3H7BrO
reactant | (S)-pyrrolidine-2-carboxamide | 3.5 mmol, 399 mg | N1[C@@H](CCC1)C(=O)N | C5H10N2O
reactant | potassium carbonate | 7 mmol, 966 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (S)-1-(3-hydroxypropyl)-pyrrolidine-2-carboxamide | 365 mg, 60% | OCCCN1[C@@H](CCC1)C(=O)N | C8H16N2O2
